* gnetlist -g spice-sdb basicPowerExampleMultiSupplies.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
R2 n4 n3 15  
R4 0 n2 10  
I1 n1 0 DC -1A
R5 0 n3 10  
R3 n1 n2 20  
R1 n1 n4 5  
V1 n2 n3 DC 2V
.end
