* gnetlist -g spice-sdb exampleFour.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
R5 0 vc 2k  
* begin vccs expansion, g<name>
G vb 0 vb vc 0.002
IMeasure_G vb vc dc 0
* end vccs expansion
Ia 0 va 1m
R4 vb vc 6k  
R3 va vc 12k  
R2 va vb 8k  
R1 0 va 4k  
.end
