* gnetlist -g spice-sdb quiz17.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
R5 0 n0 20k  
R3 0 n1 8k  
R2 n1 n0 6k  
R1 0 n0 8k  
Ia n0 n1 8m
R4 0 n0 4k  
.end
